US08044075B2
N-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-5-[(ethylamino)sulfonyl]-2,4-difluorobenzamide
2,4-difluorobenzoic acid (200 mg, 0.765 mmol) in chlorosulfonic acid (1.535 ml, 22.92 mmol) was stirred at room temperature for 30 seconds, then microwave 200 degree for 10 mins. The reaction mixture was cooled to room temperature and dumped on ice (10 g) slowly. Ethyl acetate (25 ml) was added and extracted twice with ethyl acetate (10 mL X2). The combined organic phase was dried over MgSO4. Ethylamine (1833 μl, 3.67 mmol) in THF (2.0 M) was added, stirred at room temperature for 10 mins and washed with 1 N HCl (10 ml). The organic phase was dried over MgSO4 and concentrated to give 5-[(ethylamino)sulfonyl]-2,4-difluorobenzoic acid, which was purified by HPLC 5%-60% CH3CN/H2O TFA (0.1%) to give 60 mg. To 5-[(ethylamino)sulfonyl]-2,4-difluorobenzoic acid in N,N-dimethylformamide (3 ml) and dichloromethane (3 ml) was added to EDC (32.5 mg, 0.170 mmol) and HOBt (26.0 mg, 0.170 mmol). After 10 mins, 5-cyclopentyl-1,3,4-thiadiazol-2-amine was added. The reaction mixture was stirred at rt overnight, concentrated and purifed by HPLC. The solvents were removed and purified by HPLC (30-70% with TFA 0.1% CNCH3 and H2O, 18 mins) to give the title compound (5 mg).

reactant | 5-[(ethylamino)sulfonyl]-2,4-difluorobenzoic acid | C(C)NS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)F)F | C9H9F2NO4S
reactant | EDC | 0.170 mmol, 32.5 mg
reactant | HOBt | 0.170 mmol, 26.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-cyclopentyl-1,3,4-thiadiazol-2-amine | C1(CCCC1)C1=NN=C(S1)N | C7H11N3S
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-5-[(ethylamino)sulfonyl]-2,4-difluorobenzamide | 5 mg | C1(CCCC1)C1=NN=C(S1)NC(C1=C(C=C(C(=C1)S(=O)(=O)NCC)F)F)=O | C16H18F2N4O3S2
